US07053117B2
3-Cyano-2,7,8-triamino-4-(3-methoxyphenyl)-4H-chromene
To a mixture of m-anisaldehyde (544 mg, 4.0 mmol) and malononitrile (264 mg, 4.0 mmol) in ethanol (10 mL) was added piperidine (0.4 mL) and 2,3-diaminophenol (496 mg, 4.0 mmol). The mixture was stirred at room temperature under argon for 2 h, then it was diluted with water (20 mL). The precipitate was filtered to yield 1.08 g (88%) of the title compound as a brown solid. 1H NMR (CD3OD): 8.02 (s, 1H), 7.05 (t, J=7.8 Hz, 1H), 6.58–6.66 (m, 3H), 6.30 (d, J=7.8 Hz, 1H), 6.08 (d, J=7.8 Hz, 1H), 4.41 (s, 1H), 3.60 (s, 3H).

reactant | m-anisaldehyde | 4.0 mmol, 544 mg | C(C1=CC(=CC=C1)OC)=O | C8H8O2
reactant | malononitrile | 4.0 mmol, 264 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 0.4 mL | N1CCCCC1 | C5H11N
reactant | 2,3-diaminophenol | 4.0 mmol, 496 mg | NC1=C(C=CC=C1N)O | C6H8N2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | 3-Cyano-2,7,8-triamino-4-(3-methoxyphenyl)-4H-chromene | 1.08 g, 88% | C(#N)C1=C(OC2=C(C(=CC=C2C1C1=CC(=CC=C1)OC)N)N)N | C17H16N4O2
